US08748624B2
STEP A: 2-(6-((3-ethoxy-3-oxopropyl)carbamoyl)pyridin-3-yl)-4-(trifluoromethyl)benzoic acid
2-bromo-4-(trifluoromethyl)benzoic acid (538 mg, 2.0 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (1.0 g, 3.0 mmol), Pd(dppf)Cl2 (163 mg, 0.2 mmol), and K2CO3 (1.1 g, 8.0 mmol) were dissolved in 1,4-dioxane (12 mL) and water (4 mL) and heated to 90° C. After 3 h the resulting mixture was diluted EtOAc and water and 2N aqueous HCl was added until the pH of the aqueous layer was ca. 3-4. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated to yield the title compound, which was used in the next step without further purification.

reactant | 2-bromo-4-(trifluoromethyl)benzoic acid | 2.0 mmol, 538 mg | BrC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4BrF3O2
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 3.0 mmol, 1.0 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 8.0 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.2 mmol, 163 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 4 mL | O | H2O
product | 2-(6-((3-ethoxy-3-oxopropyl)carbamoyl)pyridin-3-yl)-4-(trifluoromethyl)benzoic acid | C(C)OC(CCNC(=O)C1=CC=C(C=N1)C1=C(C(=O)O)C=CC(=C1)C(F)(F)F)=O | C19H17F3N2O5
